US08877760B2
To a mixture of 3-pyridylboronic acid (500 mg, 4.06 mmol), 1-iodo-4-nitrobenzene (1.01 g, 4.06 mmol) and Pd(Ph3P)2Cl2 (140 mg, 0.199 mmol) in dioxane (15 mL), a solution of Na2CO3 (1.00 g, 9.43 mmol) in H2O (10 mL) was added. The mixture was stirred at 100 C for 2 h. Water and EtOAc were added. Organic phase was separated, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo. The residue was purified by a silica gel column on ISCO, eluted with 20-100% EtOAc in hexanes to give 3-(4-nitrophenyl)pyridine as a solid (487 mg). A mixture of 3-(4-nitrophenyl)pyridine (487 mg, 2.43 mmol) and Pd—C(10%, 80 mg) in MeOH (25 mL) and EtOAc (5 mL) was hydrogenated under balloon H2 for 5 h. The mixture was then filtered through celite. The filtrate was concentrated in vacuo to give 4-(pyridin-3-yl)aniline as a solid (403 mg).

reactant | 3-(4-nitrophenyl)pyridine | 2.43 mmol, 487 mg | [N+](=O)([O-])C1=CC=C(C=C1)C=1C=NC=CC1 | C11H8N2O2
solvent | MeOH | 25 mL | CO | CH4O
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 80 mg | [Pd] | Pd
product | 4-(pyridin-3-yl)aniline | 403 mg | N1=CC(=CC=C1)C1=CC=C(N)C=C1 | C11H10N2
